US03979430
60.5 Gm. of 2-methyl-10,11-dihydro-5H-dibenzo[a,d] cyclohepten-5-one is refluxed in 500 ml. of carbon tetrachloride with 58.2 gm. of N-bromosuccinimide for 8 hours. The solution is cooled and filtered and the solvent removed under vacuum. The residue is dissolved in 200 ml. of dimethylformamide and 44 gm. of 1,5-diazabicyclo[3.4.0]nonene-5 is added. The mixture is heated to 80°C. for 20 minutes, then cooled and added to water. The solution is extracted with ether and the extract washed, dried and evaporated. The residue is recrystallized from acetone/hexane to afford 39.7 g., 69% of 2-methyl-5H-dibenzo[a,d]cyclohepten-5-one, m.p. 78°-80°C. Use of 2-ethyl-10,11-dihydro-5H-dibenzo [a,d]cyclohepten-5-one gives a similar yield of 2-ethyl-5H-dibenzo[a,d]cyclohepten-5-one, m.p. 62°-64°C.

reactant | 2-methyl-10,11-dihydro-5H-dibenzo[a,d] cyclohepten-5-one | CC1=CC2=C(C(C3=C(CC2)C=CC=C3)=O)C=C1 | C16H14O
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-methyl-5H-dibenzo[a,d]cyclohepten-5-one | CC1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C16H12O
reactant | 2-ethyl-10,11-dihydro-5H-dibenzo [a,d]cyclohepten-5-one | C(C)C1=CC2=C(C(C3=C(CC2)C=CC=C3)=O)C=C1 | C17H16O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-ethyl-5H-dibenzo[a,d]cyclohepten-5-one | C(C)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C17H14O
